US06242470B1
N-(5-Indazolyl)-tricyclo[3.3.1.13,7]decane-1-acetamide
Prepared according to the method of Example 1b) from 1-adamantaneacetyl chloride (0.1 g) and 5-aminoindazole (0.067 g) to give the title compound as a white solid (0.12 g).

reactant | 1-adamantaneacetyl chloride | 0.1 g | C12(CC3CC(CC(C1)C3)C2)CC(=O)Cl | C12H17ClO
reactant | 5-aminoindazole | 0.067 g | NC=1C=C2C=NNC2=CC1 | C7H7N3
product | N-(5-Indazolyl)-tricyclo[3.3.1.13,7]decane-1-acetamide | 0.12 g | N1N=CC2=CC(=CC=C12)NC(CC12CC3CC(CC(C1)C3)C2)=O | C19H23N3O
